US04154852
Using the procedure of Example 1, 3-nitro-8,9-dihydro [5H] benzocycloheptene-5-one and dimethylamine were reacted to obtain a non-salified product which was treated in ethyl acetate with a solution of ethyl acetate saturated with gaseous hydrogen chloride to obtain a product which was crystallized from isopropanol to obtain 2-nitro-7-dimethylamino-6,7-dihydro [5H] benzocycloheptene hydrochloride melting at 202° C.

reactant | 3-nitro-8,9-dihydro [5H] benzocycloheptene-5-one | [N+](=O)([O-])C1=CC2=C(CCC=CC2=O)C=C1 | C11H9NO3
reactant | dimethylamine | CNC | C2H7N
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-nitro-7-dimethylamino-6,7-dihydro [5H] benzocycloheptene hydrochloride | Cl.[N+](=O)([O-])C=1C=CC2=C(C=CC(CC2)N(C)C)C1 | InChI=1S/C13H16N2O2.ClH/c1-14(2)12-6-3-10-4-8-13(15(16)17)9-11(10)5-7-12;/h4-5,7-9,12H,3,6H2,1-2H3;1H
